US07582760B2
1-(2,2-Dimethoxy-ethyl)-2,3-dinitro-benzene (1.85 g, 7.19 mmol) was dissolved in 20 mL of MeOH and 90 mg of 10% by weight Pd/C was added. This mixture was stirred under 1 atmosphere of H2 for 14 hours at room temperature. The mixture was filtered over celite and purified by chromatography to afford 3-(2,2-dimethoxy-ethyl)-benzene-1,2-diamine (1.04 g, 73%). 1H NMR (CDCl3) δ 2.87 (2H, d, J=5.3 Hz), 3.37 (6H, s), 4.50 (1H, t, J=5.3 Hz), 7.60 (6.62-6.66, m, 3H).

reactant | 1-(2,2-Dimethoxy-ethyl)-2,3-dinitro-benzene | 7.19 mmol, 1.85 g | COC(CC1=C(C(=CC=C1)[N+](=O)[O-])[N+](=O)[O-])OC | C10H12N2O6
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 3-(2,2-dimethoxy-ethyl)-benzene-1,2-diamine | 1.04 g, 73% | COC(CC1=C(C(=CC=C1)N)N)OC | C10H16N2O2
